US06797823B1
N-(2,4-Difluorophenyl)-N′-(4-{[6-methoxy-7-(2-methoxyethoxy)-4-quinolyl]oxy}-2,3-dimethylphenyl) urea
N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,3-dimethylphenyl)-N′-(2,4-difluorophenyl)urea (213 mg) was dissolved in N,N-dimethylformamide (5 ml) and triethylamine (1 ml), and palladium hydroxide (40 mg) was added to the solution. The mixture was stirred in a hydrogen atmosphere at room temperature overnight. The reaction solution was filtered through Celite and was then washed with chloroform/methanol. The solvent was removed by distillation under the reduced pressure. A 90 mg portion of the residue (184 mg) was dissolved in N,N-dimethylformamide (1.5 ml), and potassium carbonate (32 mg), tetra-n-butylammonium iodide (7 mg), and 2-bromoethyl methyl ether (32 mg) were added to the solution. The mixture was stirred at 70° C. overnight. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography on silica gel by development with chloroform/acetone (2/1) to give 110 mg of the title compound.

reactant | N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,3-dimethylphenyl)-N′-(2,4-difluorophenyl)urea | 213 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C(=C(C=C1)NC(=O)NC1=C(C=C(C=C1)F)F)C)C)OC | C32H27F2N3O4
reactant | hydrogen | [H][H] | H2
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium hydroxide | 40 mg | [OH-].[Pd+2].[OH-]
product | N-(2,4-Difluorophenyl)-N′-(4-{[6-methoxy-7-(2-methoxyethoxy)-4-quinolyl]oxy}-2,3-dimethylphenyl) urea | 110 mg | FC1=C(C=CC(=C1)F)NC(=O)NC1=C(C(=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCOC)C)C | C28H27F2N3O5
